US05262420
Preparation of 1-(2-chlorophenyl)-3-(3-ethyl-4-pyridyl)-propane
1.13 g (9.35 mmol) of 3-ethyl-4-methylpyridine and 2.05 g (9.35 mmol) of 2-chlorophenethyl bromide were reacted in the same manner as in Example 1. The reaction product was purified to obtain 1.04 g of the desired compound (yield: 42.8%).

reactant | 3-ethyl-4-methylpyridine | 9.35 mmol, 1.13 g | C(C)C=1C=NC=CC1C | C8H11N
reactant | 2-chlorophenethyl bromide | 9.35 mmol, 2.05 g | ClC1=C(CCBr)C=CC=C1 | C8H8BrCl
product | 1-(2-chlorophenyl)-3-(3-ethyl-4-pyridyl)-propane | 1.04 g, yield: 42.8% | ClC1=C(C=CC=C1)CCCC1=C(C=NC=C1)CC | C16H18ClN
